US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(4-t-butylcarbonyl-aminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo [f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (200 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (50 mg, 0.04 mmol), 4-t-butylcarbonylaminophenylboronic acid (172 mg, 0.78 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with chloroform (50 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent), to give 104 mg (40%) of the title compound as a brown solid. mp>265° C. FDMS: m/e=404. α[D]589 =+49.42 (c=0.56, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 4-t-butylcarbonylaminophenylboronic acid | 0.78 mmol, 172 mg | C(C)(C)(C)C(=O)NC1=CC=C(C=C1)B(O)O | C11H16BNO3
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.04 mmol, 50 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(4-t-butylcarbonyl-aminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo [f]quinolin-3-one | 104 mg, 40% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=C(C=C(C=C3)C(=O)C(C)(C)C)N)C)=O | C26H32N2O2
